US07041685B2
2-(4-Chloro-phenyl)-5-(3-chloro-thiophen-2-yl)-oxazole
N-[2-(3-Chloro-thiophen-2-yl)-2-oxo-ethyl]-4-chloro-benzamide: The title compound was prepared from 2-(3-chloro-thiophen-2-yl)-2-oxo-1-ethylamine hydrochloride (0.05 g, 0.235 mmol) and 4-chloro-benzoyl chloride (0.02 mL, 0.235 mmol) by a procedure similar to Example 97a to yield 0.048 g (72.7%) of white solid. 1H NMR (CD3OD): 7.77 (m, 3H), 7.43 (d, J=8.4 Hz, 2H), 7.36 (t, 1H), 7.05 (d, J=5.4 Hz, 1H), 4.75 (d, J=9.3 Hz, 2H).

reactant | N-[2-(3-Chloro-thiophen-2-yl)-2-oxo-ethyl]-4-chloro-benzamide | ClC1=C(SC=C1)C(CNC(C1=CC=C(C=C1)Cl)=O)=O | C13H9Cl2NO2S
reactant | 2-(3-chloro-thiophen-2-yl)-2-oxo-1-ethylamine hydrochloride | 0.235 mmol, 0.05 g | Cl.ClC1=C(SC=C1)C(CN)=O
reactant | 4-chloro-benzoyl chloride | 0.235 mmol, 0.02 mL | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | 2-(4-Chloro-phenyl)-5-(3-chloro-thiophen-2-yl)-oxazole | ClC1=CC=C(C=C1)C=1OC(=CN1)C=1SC=CC1Cl | C13H7Cl2NOS
